US07786165B2
tert-butyl 3-(4-{({4′-[2-(ethylthio)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate
To a solution of tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (2.0 g, 3.15 mmol), 2-(ethylthio)ethanol (0.37 mL, 3.47 mmol) and tributylphosphine (1.18 mL, 4.73 mmol) in tetrahydrofuran (40 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.19 g, 4.73 mmol) under stirring at room temperature, and the mixture was stirred for 16 hr. To the reaction mixture were added reagents (2-(ethylthio)ethanol, tributylphosphine and 1,1′-(azodicarbonyl)dipiperidine) in a half amount as above, and the mixture was further stirred for 8 hr. The reaction mixture was diluted with diethyl ether, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=2/1) to give the title compound (1.96 g, yield 86%) as a yellow oil.

reactant | tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 3.15 mmol, 2.0 g | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OC(C)(C)C | C34H35FN2O7S
reactant | 2-(ethylthio)ethanol | 3.47 mmol, 0.37 mL | C(C)SCCO | C4H10OS
reactant | tributylphosphine | 4.73 mmol, 1.18 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.73 mmol, 1.19 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | tert-butyl 3-(4-{({4′-[2-(ethylthio)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 1.96 g, yield 86% | C(C)SCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C38H43FN2O7S2
